US07192982B2
3-(4-Hydroxy-3-methyl-phenyl)-2-methoxy-propionic acid ethyl ester
A solution of 3-(4-Benzyloxy-3-methyl-phenyl)-2-methoxy-propionic acid ethyl ester in ethyl acetate was treated with a catalytic amount of C—Pd (0.1 eq) and then H2 was bubbled through the mixture and stirred 2 hours. The mixture reaction was filtered through a pad of celite and concentrated in vacuo to give the title compound.

reactant | 3-(4-Benzyloxy-3-methyl-phenyl)-2-methoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)C)OC)=O | C20H24O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-Hydroxy-3-methyl-phenyl)-2-methoxy-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)C)OC)=O | C13H18O4
